### PR TITLE
Add `OperationPtr.getResultTypes`

### PR DESCRIPTION
**Pull request by math-fehr**
This helper is useful in the interpreter, and makes it easier to write get-set lemmas for high-level rewriting operations.

### CODE REVIEW

File: Veir/IR/Basic.lean [hunk 1]
```diff
@@ -668,6 +668,23 @@ theorem getResults!.getElem_eq_getResult
   simp only [getResults!, getResult]
   grind
 
+def getResultTypes (op : OperationPtr) (ctx : IRContext OpInfo)
+    (inBounds : op.InBounds ctx := by grind) : Array TypeAttr :=
+  Array.map (fun i => (op.get ctx).results[i]!.type) (Array.range (op.getNumResults ctx inBounds))
```
Comment (nchappe) [inline Veir/IR/Basic.lean]: Shouldn't `[]!` be avoided in non-`!` functions? `(op.get ctx).results.map (·.type)` could be more concise.

**Review by tobiasgrosser — APPROVED** [review]
This LGTM after @nchappe's comment is addressed.

File: Veir/IR/Basic.lean (hunk 1 above)
Comment (math-fehr) [reply Veir/IR/Basic.lean]: Oh yes, sorry about this, I fixed it
